US04737501
A mixture of 5-(1-piperazinyl)oxindol.hydrobromide (1.0 g), 1.2 g of benzyl chloride and 1.1 g of triethylamine in 20 ml of acetonitrile was stirred at room temperature for 6 hours. The reaction mixture was poured into a large amount of water and extracted with chloroform. After washing with water, the extract was dried over anhydrous sodium sulfate and chloroform was removed. The residue was recrystallized from isopropyl alcohol to give 0.7 g of 5-(4-benzyl-1-piperazinyl)oxindol.

reactant | 5-(1-piperazinyl)oxindol.hydrobromide | 1.0 g | Br.N1(CCNCC1)C=1C=C2CC(NC2=CC1)=O
reactant | benzyl chloride | 1.2 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-(4-benzyl-1-piperazinyl)oxindol | 0.7 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2CC(NC2=CC1)=O | C19H21N3O
